US04450155
Triethylamine (2.8 ml.) was added with stirring to a solution of N-(tert-butyloxycarbonyl)-L-proline (4.3 g.) in tetrahydrofuran (50 ml.) maintained at 0° C. The temperature was lowered to -20° C., isobutyl chloroformate (2.7 ml.) was added, and stirring was continued for15 minutes. 2-Phenylethylamine (2.5 ml.) was then added with continued stirring, and the mixture was allowed to warm to room temperature and filtered. Concentration of the filtrate afforded a solid. Crystallization of the solid from ethyl acetate gave the product in two parts by filtration and in a third part from the filtrate, which was washed with water, aqueous citric acid (5%), saturated aqueous sodium chloride and saturated aqueous sodium bicarbonate, then dried and concentrated. High pressure liquid chromatography of the three parts on silica gel (350 g.) using hexane-ethyl acetate (7:3) as the eluant (200 ml./min.) afforded in fractions 7-8 1-(tert-butyloxycarbonyl)-N-(2-phenylethyl)-L-prolinamide (3.2 g., m.r. 153°-154° C.)

reactant | Triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | N-(tert-butyloxycarbonyl)-L-proline | 4.3 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | isobutyl chloroformate | 2.7 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-Phenylethylamine | 2.5 ml | C1(=CC=CC=C1)CCN | C8H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(tert-butyloxycarbonyl)-N-(2-phenylethyl)-L-prolinamide | 3.2 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NCCC2=CC=CC=C2)CCC1 | C18H26N2O3
